US07022708B2
A solution of 1-indole carboxylic acid tert-butyl ester (1.88 g, 8.65 mmol) in 100 mL of anhydrous THF was cooled to −78° C. in a dry ice/acetone bath under an argon gas blanket. A fresh commercial (Aldrich) 1.7 M solution of t-BuLi in pentane (10.2 mL, 17.3 mmol, 2.0 eq) was slowly added to the stirring mixture via syringe. During the addition, the solution turned from a light amber-red color to a dark, orange-burgundy color. After the addition was complete, the reaction mixture was allowed to stir for 45 minutes at −78° C. and then 4-fluorobenzenesulfonyl fluoride was slowly added to the reaction mixture while carefully maintaining an internal temperature of <−65° C. The reaction mixture was kept at −75 to −78° C. for a period of 20 minutes after the addition was complete then was allowed to warm to room temperature, where it remained for 2 h. The reaction mixture was poured into 500 mL of saturated NH4Cl solution, diluted with 500 mL of EtOAc and mixed well. The pale, amber-orange organic layer was separated, washed with brine and dried over anhydrous magnesium sulfate. Evaporation of the solvent gave a dark amber oil which was silica-gel chromatographed, gradient eluting with 10% EtOAc/Hexane followed by CHCl3 to give 1.40 g, 3.73 mmol, 43.1% yield of the 2-(4-Fluoro-benzenesulfonyl)-indole-1-carboxylic acid tert-butyl ester as an amber oil which solidified on standing to a pale reddish-tan solid which had a melting point range of 88–93° C.

reactant | 1-indole carboxylic acid tert-butyl ester | 8.65 mmol, 1.88 g | C(C)(C)(C)OC(=O)N1C=CC2=CC=CC=C12 | C13H15NO2
reactant | t-BuLi | [Li]C(C)(C)C
reactant | pentane | 17.3 mmol, 10.2 mL, 2.0 eq | CCCCC | C5H12
reactant | 4-fluorobenzenesulfonyl fluoride | FC1=CC=C(C=C1)S(=O)(=O)F | C6H4F2O2S
reactant | NH4Cl | 500 mL | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 500 mL | CCOC(=O)C | C4H8O2
product | 2-(4-Fluoro-benzenesulfonyl)-indole-1-carboxylic acid tert-butyl ester | 3.73 mmol, 1.40 g, 43.1% yield | C(C)(C)(C)OC(=O)N1C(=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)F | C19H18FNO4S
